Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
seizure
 
Major Surgical or Invasive Procedure:
intubation and subsequent extubation 
 
History of Present Illness:
Mr. ___ is a ___ man with TBI and epilepsy who
presents as a transfer from ___ for status epilepticus
(total time possibly 60 minutes). He had a witnessed 30min long
seizure where he stiffened and stared off into space. Per 
mother,
eyes rolled back into his head and his breathing was terrible.
Did bite his lip, did not have any urinary incontinence. EMS was
called, found him to have "clonic type rigidity, trismus, rapid
eye fluttering and nonsensical moaning." Eyes were open but pt
unresponsive to verbal/painful stimuli, had a lip skin tear and
moderate amount of frothy sputum. Vitals at that time BP 
180/110,
RR22, O2 sat 96%. Family believes that seizure activity was
brought on by EtOH use today.

He received 5mg IV versed but continued to remain stiff and
unresponsive. Contacted ___ and got another 2mg IV
versed. There is some discrepancy between OSH nursing/attending
notes and EMS notes- per nursing notes, pt got total of 12mg
valium. He was still unresponsive to painful stimuli. Had 
several
additional seizure-like episodes described as rigid hypertonia
and left gaze deviation. Got additional doses of Ativan (total
4mg) and fosphenytoin. Intubated via RSI with etomidate and
succinylcholine and placed on ventilator, sedated with propofol.
Had fever ___, LP bland. Empirically covered with ceftriaxone. 

Had seizures ___ years ago in setting of not drinking alcohol per
brother, likely withdrawal. He drinks about 1 pint per day,
perhaps more. Unknown when his last drink was. He has not had a
seizure in the last ___ years. He is not on any antiseizure
medications. 

TBI from getting hit by a train. Required a L craniotomy and LLE
amputation. 

Per mother and brother, he seemed fine yesterday am, no fever, 
no
cough, no urinary complaints. 

 
Past Medical History:
GERD, depression, TBI with seizures ___ years ago,
baseline cognitively delayed, prosthetic leg, EtOH use and 
history of withdrawal seizures
 
Social History:
___
Family History:
no fhx seizure, migraine, stroke
 
Physical Exam:
On admission:
Vitals:  T: ___ at OSH  HR: 81  BP: ___  RR: 19  SaO2: 98% RA
 General: intubated, examined off propofol
 HEENT: ET tube in place, bloody lip, R eye bloodshot
 ___: RRR, no M/R/G
 Pulmonary: CTAB, no crackles or wheezes
 Abdomen: Soft, NT, ND, +BS, no guarding
 Extremities: Warm, no edema, LLE amputation

Neurologic Examination:
- Mental status: intubated, not responsive to deep sternal rub
off sedation
- Cranial Nerves: PERRL 4-->3 brisk. No BTT bilaterally. 
- Motor:  Normal bulk and tone. R shoulder twitching at times
that would last 5 seconds and stop

- Reflexes: 
     [Bic] [Tri] [___] [Quad] [Gastroc]
  L   2+    2+     2+      0       x
  R   2+    2+     2+      0       1  
x amputated LLE
Upgoing toe on RLE, LLE amputated at shin

- Sensory: withdraws to pain in RUE but not LUE, triple flexes 
in
RLE
- Coordination: unable to assess
- Gait: unable to assess

On discharge: 
 
Pertinent Results:
From OSH: lactate 2.3, ammonia 20
troponin from OSH: 0.96
CSF from OSH: clear, colorless, 1 RBC, 2 WBC, glc 87, protein 21 

UDS from OSH: positive for cannabinoids, tricyclics
UA: positive for acetone, albumin (2+), trace epithelial cells,
neg for leukesterase and nitrites, positive for blood 3+ with
___ RBCs

At ___: 
___ 01:38PM   ALT(SGPT)-289* AST(SGOT)-1047* ___
___ 05:30AM BLOOD ALT-229* AST-592* ___ 
AlkPhos-33* TotBili-0.4

___ 02:35AM BLOOD cTropnT-0.14*
___ 02:55AM BLOOD CK-MB-13* MB Indx-0.0 cTropnT-<0.01
___ 05:10AM BLOOD Acetone-NEGATIVE
___ 05:30PM BLOOD HBsAb-NEGATIVE HBcAb-NEGATIVE IgM 
HAV-NEGATIVE
___ 02:35AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-5* 
Bnzodzp-POS Barbitr-NEG Tricycl-NEG
___ 05:30PM BLOOD HCV Ab-POSITIVE*
HCV titer: nondetectable

On discharge:
___ 05:20AM BLOOD WBC-9.4# RBC-4.00* Hgb-12.8* Hct-36.3* 
MCV-91 MCH-32.0 MCHC-35.3 RDW-13.0 RDWSD-42.4 Plt ___
___ 05:20AM BLOOD Plt ___
___ 05:20AM BLOOD Glucose-161* UreaN-8 Creat-0.5 Na-136 
K-3.4 Cl-99 HCO3-25 AnGap-15
___ 05:20AM BLOOD ALT-222* AST-455* ___ 
AlkPhos-41

IMAGING:
RUQ u/s: normal

Extended routine EEG: markedly abnormal EEG due to the low 
voltage slow background throughout and the additional theta and 
delta slowing more broadly over the left hemisphere. The 
widespread low voltage slowing suggests a widespread 
encephalopathy. Medications, metabolic disturbances, and 
infection are among the most common causes. Often the low 
voltage fast pattern suggests medication effect. His persistent 
slowing over the left hemisphere raises the possibility of a 
focal structural abnormality on that side. Nevertheless, there 
were no epileptiform features or electrographic seizures in the 
recording. 
--> FYI he was on Ativan/valium during this EEG
 
Brief Hospital Course:
Mr. ___ is a ___ man with EtOH withdrawal seizures, L 
parietal TBI, and depression on TCA who was admitted ___ 
with at least 60 minutes convulsive status epilepticus requiring 
intubation. Unknown when his last drink was, but he does have a 
possible history of seizures in the setting of EtOH withdrawal. 
On exam, he did not follow commands or blink to threat but moves 
all extremities spontaneously. NCHCT/CTA head negative for acute 
processes. Urine was positive for TCA and acetone, negative 
acetaminophen levels, negative EtOH level, and fever to ___. 
CSF bland, got 2g ceftriaxone empirically. He was given ?12mg 
versed/valium (unclear which) and 4mg Ativan at ___ 
along with 1g fosphenytoin to stop seizures and was subsequently 
intubated for airway protection and transferred to ___ for 
further management. Here, he was found to have rhabdomyolysis 
and a transaminitis. Continuous EEG negative for non-convulsive 
status epilepticus and only showed generalized slowing 
suggestive of encephalopathy and no epileptiform discharges. He 
was started on thiamin and continued on dilantin. He was 
extubated ___ and transferred to the floor, where he 
appeared to be withdrawing from alcohol. Placed on CIWA protocol 
with Ativan and transitioned to scheduled valium ___ with 
prn valium per CIWA>10. 

1. Seizure: switched from phenytoin to keppra 1g BID given his 
transaminitis. cvEEG was negative for epileptiform discharges, 
and extended routine EEG that was obtained due to interval L 
gaze preference showed no epileptiform discharges. No longer has 
gaze preference. Seizure likely due to alcohol withdrawal. 

2. EtOH withdrawal, delirium tremens: started on thiamin in ICU 
prior to receiving any dextrose here at ___, also placed on 
folate and MVI. Initially treated with Ativan for CIWA>10, some 
concern for oversedation but pt remained very agitated 
throughout his course outside the ICU. Transitioned to scheduled 
Ativan 0.5mg q6h and then to valium 7.5mg q8h with prn valium 
2.5mg q8h for CIWA>10. Thiamin continued throughout his course. 
IV thiamin 250mg qd scheduled to stop ___, please start IV/po 
thiamin 100mg qd thereafter to be continued indefinitely.

3. Rhabdomyolysis: CK peaked at 70,000 and trended down with the 
administration of IVF. Creatinine remained stable at 0.7 
throughout his hospital course. On transfer, CK was ___.

4. Elevated liver enzymes: likely due to rhabdomyolysis as 
muscle also produces these enzymes. AST peaked at 1047 and ALT 
peaked at 436. Both are trending down at time of discharge. 
Acute hepatitis panel checked and was only positive for HCV 
antibodies, which was expected given his history of hep C s/p 12 
wks Harvoni. Hepatitis C viral load nondetectable.

5. Electrolyte abnormalities: pt was hypokalemic and repleted. 
His glucose was also in the ___ while in the ICU for which he 
received dextrose after IV thiamin administered. While on the 
floor, he did not tolerate a DHT (kept pulling out DHT, concern 
for aspiration PNA should tube feeds be continued in the setting 
of agitation) so was started on D5LR. Thiamin was also continued 
through this time. 

Transitional issues:
1. Continue IV fluids for rhabdo
2. Transition from 250mg IV thiamin to 100mg IV thiamin ___ to 
continue indefinitely (can switch to po once he is safe to 
swallow)
3. Taper off valium as pt tolerates it. He should not be 
discharged to home (either from hospital or rehab) on 
benzodiazepines as he was put on them only for withdrawal 
symptoms
4. Nutrition: pt did not tolerate DHT-kept pulling it out while 
tube feeds were running which puts him at risk for aspiration 
PNA. As he wakes up, he may be able to tolerate food
5. MRI head to check for acute/subacute issues/axonal injury 
(this is low on our differential, but should his mental status 
remain the same, he may warrant an MRI head prior to discharge)
6. Please set up appointment with neurologist close to where he 
lives (it is difficult for him and his family to come to ___ 
for follow-up), they will need to follow up on keppra and 
whether or not it should be continued in the setting of seizure 
likely from EtOH withdrawal

Most recent plan:
1. Seizure: resolved, EEG showed slowing, mental status not back 
at baseline
- continue Keppra 1g po BID
- f/u MRI head
- seizure precautions

2. EtOH withdrawal, ?delirium tremens
- continue thiamin 250mg po x5 days (stop ___ then 100mg po 
qd (start ___
- continue po folate
- CIWA protocol with valium
- valium 7.5mg IV q8h

3. Rhabdomyolysis
- trend CK q24h
- continue D5LR with 20meq KCl @125cc/hr
- goal UOP >100cc/hr

4. Elevated liver enzymes: EtOH history, hx hep C s/p Harvoni, 
got fosphenytoin/Dilantin, also has severe rhabdomyolysis which 
could cause AST to be elevated without proportional elevation in 
ALT 
- trend LFTs q24hr

5. Electrolyte abnormalities
- replete prn

6. Hospital Issues:
- FEN: NPO, advance diet as tolerated
- PPX: SQH, pneumoboots, colace
- Precautions: seizure
- Code status: full code (presumed)
- Dispo: pending ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lovastatin 40 mg oral DAILY 
2. Amitriptyline 50 mg PO DAILY 
3. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
On transfer:
1. Diazepam 7.5 mg IV TID 
2. Diazepam 2.5 mg IV Q8H:PRN CIWA>10 
3. FoLIC Acid 1 mg PO DAILY 
4. Heparin 5000 UNIT SC BID 
5. LeVETiracetam 1000 mg IV BID 
6. Multivitamins 1 TAB PO DAILY 
7. Sodium Chloride 0.9%  Flush 3 mL IV Q8H and PRN, line flush 
8. Thiamine 250 mg IV Q24H Duration: 5 Days 
complete ___. Lovastatin 40 mg oral DAILY 
10. Omeprazole 20 mg PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Seizure likely from alcohol withdrawal, rhabdomyolysis, 
transaminitis

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Lethargic but arousable.
Activity Status: Bedbound for now given confusion and withdrawal

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ as a transfer from ___ for a 
seizure that lasted greater than 1 hour. You received 
medications to stop the seizures, but this required you to be 
intubated and extubated the day after. You were continued on an 
oral seizure medication called Keppra. 

You had quite a bit of muscle break down due to your seizures, 
so you were started on IV fluids to protect your kidneys from 
damage from the muscle breakdown. Your liver enzymes were high, 
but this was likely due to your muscle break down as well. 

The cause of your seizure was likely due to alcohol withdrawal. 
We treated you for alcohol withdrawal while you were in the 
hospital. Please do not drink any more alcohol, as this is 
detrimental to your health. 

It was a pleasure taking care of you in the hospital, and we 
wish you the best!

Sincerely,
Your ___ Team
 
Followup Instructions:
___